US08314256B2
2-(1H-Indol-3-yl)-2-oxo-N-phenethyl-acetamide was synthesized following scheme I above starting from (1H-indol-3-yl)-oxo-acetyl chloride and phenethylamine. Yield (61%). HPLC ret. time 3.17 min, 10-99% CH3CN, 5 min run; 1H NMR (400 MHz, DMSO-d6) δ 12.23 (s, 1H), 8.79 (t, J=5.9 Hz, 1H), 8.67 (s, 1H), 8.23 (m, 1H), 7.53 (m, 1H), 7.33-7.19 (m, 7H), 3.47 (m, 2H), 2.85 (t, J=7.4 Hz, 2H); ESI-MS 293.3 m/z (MH+).

reactant | (1H-indol-3-yl)-oxo-acetyl chloride | N1C=C(C2=CC=CC=C12)C(C(=O)Cl)=O | C10H6ClNO2
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
solvent | CH3CN | CC#N | C2H3N
product | 2-(1H-Indol-3-yl)-2-oxo-N-phenethyl-acetamide | N1C=C(C2=CC=CC=C12)C(C(=O)NCCC1=CC=CC=C1)=O | C18H16N2O2
